US04618683
3-(3-methoxyphenyl)-propanol
A solution of dihydro-m-methoxycinnamic acid (90 g, 0.5 mole) and tetrahydrofuran (250 mL) was stirred under N2 at 0° as BH3.THF (1M solution, 525 mL) was added slowly. The reaction mixture was stirred at room temperature for 2 hours. After cooling to -5° C., 1N HCl was added. THF was evaporated and water was added to the residue. The aqueous layer was extracted with ether. The combined extracts were washed with saturated aqueous NaHCO3, saturated aqueous NaCl, dried (MgSO4), filtered and evaporated to yield 70.0 g white solid, M+ 166.

reactant | dihydro-m-methoxycinnamic acid | 0.5 mole, 90 g | COC=1CC(C=CC(=O)O)C=CC1 | C10H12O3
reactant | BH3.THF | 1M, 525 mL | B.C1CCOC1
reactant | HCl | 1N | Cl | ClH
solvent | tetrahydrofuran | 250 mL | O1CCCC1 | C4H8O
product | 3-(3-methoxyphenyl)-propanol | 70.0 g | COC=1C=C(C=CC1)CCCO | C10H14O2
